Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Endometrial Cancer
 
Major Surgical or Invasive Procedure:
Total Laparoscopic Hysterecyomy with Lymph node dissection and 
lysis of adhesions, cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ year old female with a PMH significant for 
Breast Cancer who developed post-menopausal bleeding. An 
endometrial biopsy was performed which demonstrated grade 2 
adenocarcinoma, endometriod type. Given this, the decision was 
made to proceed to the operating room for definitive management.
 
Past Medical History:
PMH:
Breast Cancer with recurrence of DCIS
Hypothyroidism
History of Diverticulitis
Hyperlipidemia

PSH: 
Prophylactic BSO
Cesarean Section x 2 

 
Social History:
___
Family History:
Her father had lung cancer
 
Physical Exam:
Physical Examination : (Pre-op)
Afebrile, VSS
NAD, appears comfortable
CV: RRR
Pulm: CTAB
Abd: Overweight, vertical midline scar below umbilicus, NT/ND
SVE: Deferred

 
Pertinent Results:
___ 06:32AM BLOOD WBC-10.6 RBC-3.41* Hgb-9.5* Hct-29.0* 
MCV-85 MCH-28.0 MCHC-32.9 RDW-13.3 Plt ___
___ 06:32AM BLOOD Glucose-119* UreaN-15 Creat-0.9 Na-139 
K-4.0 Cl-102 HCO3-27 AnGap-14
___ 06:32AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.1

Pathology Pending
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a PMH significant for 
breast cancer who had been on Tamoxifen and has just recently 
been diagnosed with a recurrence who developed several episodes 
of post-menopausal bleeding. The patient underwent an 
endometrial biopsy which demonstrated grade II endometriod 
adenocarcinoma. Given this, the patient was admitted to ___ 
and underwent a Laparocopic Hysterectomy with Pelvic Lymph Node 
Dissection, Lysis of adhesions and Cystoscopy. Please see the 
operative report for full detail of the procedure. The frozen 
specimen intra-operatively demonstrated up to 30% invasion of 
this tumor into the wall of the uterus in the cornual region. 
There were no other abnormalities were seen.

The patient was admitted to the hospital overnight for 
observation. She did well post-operatively. He diet was advanced 
on POD#1 nd her pain was well controlled with PO pain 
medication. She was able to ambulate independently and was 
discharged home on POD#1. She will follow-up with Dr. ___ in 
4 weeks.

 
Medications on Admission:
Gemfibrizol 600mg PO BID
Synthroid ___ QD
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
3. levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
4. Gemfibrizol 600mg PO Twice Daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Enometrial Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital and underwent a surgery for 
acute onset abdominal pain. The surgery included, a lysis of 
adhesions, hysterectomy and lymph node dissection. You may 
continue to eat a regular diet and may take oral pain medication 
for pain control. You should not perform any heavy lifting 
(>10lbs) until authorized at your post operative appointment. 
You should remain out of work for 6 weeks in order to fully 
recover. 

You should call your doctor if you develop:
Fever >100.4
chest pain
shortness of breath
abominal pain
nausea/vomiting, inability to tolerate a diet
inability to void
blood in the stool or urine
heavy vaginal bleeding
 
Followup Instructions:
___